US06911468B2
(2) Sodium (2R)-2-{4-[5-methyl-1-(4-pentylphenylpropyl)-1H-pyrrol-2-yl]phenoxy}-3-phenylpropanoate
To a solution of (2R)-2-{4-[5-methyl-1-(4-pentylphenylpropyl)-1H-pyrrol-2-yl]phenoxy}-3-phenylpropanoic acid (135 mg, 0.27 mmol) in ethanol (5 ml) was added 1N sodium hydroxide-ethanol (245 ml, 0.25 mmol) and the mixture was concentrated. To the residue was added hexane to give the object compound as a solid. 25 mg, (18%)

reactant | (2R)-2-{4-[5-methyl-1-(4-pentylphenylpropyl)-1H-pyrrol-2-yl]phenoxy}-3-phenylpropanoic acid | 0.27 mmol, 135 mg | CC1=CC=C(N1CCCC1=CC=C(C=C1)CCCCC)C1=CC=C(O[C@@H](C(=O)O)CC2=CC=CC=C2)C=C1 | C34H39NO3
reactant | sodium hydroxide ethanol | 0.25 mmol, 1N, 245 ml | [OH-].[Na+].C(C)O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | Sodium (2R)-2-{4-[5-methyl-1-(4-pentylphenylpropyl)-1H-pyrrol-2-yl]phenoxy}-3-phenylpropanoate | CC1=CC=C(N1CCCC1=CC=C(C=C1)CCCCC)C1=CC=C(O[C@@H](C(=O)[O-])CC2=CC=CC=C2)C=C1.[Na+] | InChI=1S/C34H39NO3.Na/c1-3-4-6-10-27-15-17-28(18-16-27)13-9-24-35-26(2)14-23-32(35)30-19-21-31(22-20-30)38-33(34(36)37)25-29-11-7-5-8-12-29;/h5,7-8,11-12,14-23,33H,3-4,6,9-10,13,24-25H2,1-2H3,(H,36,37);/q;+1/p-1/t33-;/m1./s1
